US03957805
Preparation of 3-(5-Cyclopropyl-3-isoxazolyl)pyridine
To a stirred mixture containing 1.35 g. of nicotinoyl chloride oxime hydrochloride and 2.6 g. of 1-iodovinylcyclopropane in 50 ml. of ethanol is added dropwise over a 1 hour period, a solution of 4.27 g. of triethylamine in 40 ml. of ethanol. The reaction is stirred for 1 hour and then the solvent is removed under reduced pressure. The residue is dissolved in water and ether and the ether layer is separated. The water layer is extracted twice with ether and then the combined ether layers are dried over sodium sulfate. Filtration and removal of the solvent under reduced pressure gives an orange-yellow solid. This material is recrystallized from isopropyl alcohol to give white crystals, melting point 74°-75°C., nmr spectrum δ6.82 (DMSO-d6, s, 4-isoxazolyl H).

reactant | nicotinoyl chloride oxime hydrochloride | Cl.C(C1=CN=CC=C1)(Cl)=NO
reactant | 1-iodovinylcyclopropane | IC(=C)C1CC1 | C5H7I
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ethanol | C(C)O | C2H6O
product | 3-(5-Cyclopropyl-3-isoxazolyl)pyridine | C1(CC1)C1=CC(=NO1)C=1C=NC=CC1 | C11H10N2O
